US04464300
100 g of 2-amino-5-chloro-2'-fluorobenzhydrol, 45.6 g of 3-mercaptopropionic acid and 200 ml of 6N hydrochloric acid are stirred together at 100° for 1.5 hours. After cooling the mixture, the precipitated crystals are filtered off and washed with 6N hydrochloric acid. There is obtained 3-[(2-amino-5-chlorophenyl)(2-fluorophenyl)methylthio]propionic acid hydrochloride of melting point 139°-141°.

reactant | 2-amino-5-chloro-2'-fluorobenzhydrol | 100 g | NC1=C(C(C2=C(C=CC=C2)F)O)C=C(C=C1)Cl | C13H11ClFNO
reactant | 3-mercaptopropionic acid | 45.6 g | SCCC(=O)O | C3H6O2S
solvent | hydrochloric acid | 6N, 200 ml | Cl | ClH
product | 3-[(2-amino-5-chlorophenyl)(2-fluorophenyl)methylthio]propionic acid hydrochloride | Cl.NC1=C(C=C(C=C1)Cl)C(SCCC(=O)O)C1=C(C=CC=C1)F | InChI=1S/C16H15ClFNO2S.ClH/c17-10-5-6-14(19)12(9-10)16(22-8-7-15(20)21)11-3-1-2-4-13(11)18;/h1-6,9,16H,7-8,19H2,(H,20,21);1H
